US08871758B2
[(S)-1-(2-Chlorophenyl)ethyl]-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine
Under inert gas, 200 mg of 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide and 176 mg of (S)-1-(2-chlorophenyl)ethylamine hydrochloride were dissolved in 1 ml of dichloromethane and 0.21 ml of N,N-diisopropylethylamine, and the mixture was stirred at room temperature for 16 hours. Subsequently, the reaction solution was diluted with 50 ml of dichloromethane, washed three times with 30 ml of 10% aqueous ammonia solution, three times with 30 ml of 1 N aqueous hydrochloric acid and with 30 ml of saturated aqueous sodium hydrogencarbonate solution, dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (171 mg) with a molecular weight of 344.94 g/mol (C15H21ClN2O3S); MS (ESI): m/e=345 (M+H+).

reactant | 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 200 mg | CC1(S(N=C(OC1(C)C)OC1=CC=C(C=C1)[N+](=O)[O-])(=O)=O)C | C13H16N2O6S
reactant | (S)-1-(2-chlorophenyl)ethylamine hydrochloride | 176 mg | Cl.ClC1=C(C=CC=C1)[C@H](C)N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | N,N-diisopropylethylamine | 0.21 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [(S)-1-(2-Chlorophenyl)ethyl]-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine | 171 mg | ClC1=C(C=CC=C1)[C@H](C)NC=1OC(C(S(N1)(=O)=O)(C)C)(C)C | C15H21ClN2O3S
